* File: SRAM.pex.netlist.pex
* Created: Wed Nov 20 17:35:52 2024
* Program "Calibre xRC"
* Version "v2024.3_37.19"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_SRAM_NET2 1 2 3 14 15 18 24 26 41
c35 41 0 0.00972563f
c36 26 0 0.00525524f
c37 24 0 0.00386575f
c38 15 0 0.0242202f
c39 14 0 0.0149948f
c40 13 0 0.00260323f
c41 3 0 0.00801197f
c42 2 0 0.0363386f
c43 1 0 0.0185175f
r44 38 41 1.20312
r45 33 41 102.4
r46 26 38 102.4
r47 24 26 0.581875
r48 20 24 0.212871
r49 18 33 0.6175
r50 15 33 1.4155
r51 14 20 1.444
r52 10 13 4.78783
r53 7 13 4.78783
r54 5 26 89.3538
r55 3 13 0.179698
r56 3 5 6.58125
r57 2 7 51.48
r58 1 10 20.28
.ends

.subckt PM_SRAM_NET9 1 2 11 14 15 18 28 41
c35 41 0 0.00980256f
c36 28 0 0.00839307f
c37 15 0 0.00734711f
c38 14 0 0.0228008f
c39 13 0 0.0026028f
c40 11 0 0.00795488f
c41 2 0 0.0242025f
c42 1 0 0.0307385f
r43 38 41 1.20312
r44 30 41 102.4
r45 28 33 0.212871
r46 28 30 0.558125
r47 24 38 102.4
r48 18 24 1.292
r49 15 33 0.673143
r50 14 24 0.741
r51 11 30 89.3538
r52 9 13 0.179698
r53 9 11 6.3375
r54 6 13 4.78783
r55 3 13 4.78783
r56 2 3 23.79
r57 1 6 47.97
.ends

.subckt PM_SRAM_!BL 1 3
c6 3 0 0.00945655f
r7 1 3 0.0108571
.ends

.subckt PM_SRAM_WL 1 2 6 16 18 24
c18 24 0 0.0399996f
c19 16 0 0.01468f
c20 6 0 0.0146536f
c21 2 0 0.0330204f
c22 1 0 0.0330204f
r23 18 24 1.7005
r24 18 20 1.653
r25 16 20 89.3538
r26 13 16 7.41
r27 8 24 89.3538
r28 6 10 5.01959
r29 6 8 5.46
r30 3 13 3.06959
r31 2 10 50.31
r32 1 3 49.53
.ends

.subckt PM_SRAM_GND! 1 2 9 17 23 24 30 39
c36 39 0 0.0152198f
c37 38 0 0.00154853f
c38 30 0 0.0123094f
c39 24 0 0.00953986f
c40 23 0 0.0106601f
c41 9 0 0.0124588f
c42 2 0 0.00860122f
c43 1 0 0.00823497f
r44 32 39 0.0172177
r45 31 38 0.192928
r46 30 39 0.192928
r47 30 31 2.2325
r48 26 38 0.0172177
r49 23 38 0.192928
r50 18 24 0.215744
r51 17 23 0.178125
r52 17 24 1.76937
r53 9 18 0.6555
r54 2 32 0.6555
r55 1 26 0.6555
.ends

.subckt PM_SRAM_VDD! 4 5 9 15 21 22 28 37
c27 37 0 0.0250803f
c28 36 0 0.00342338f
c29 28 0 0.0206713f
c30 22 0 0.00937651f
c31 21 0 0.0185294f
c32 9 0 0.012506f
c33 5 0 0.00935684f
c34 4 0 0.00671022f
r35 30 37 0.0172177
r36 29 36 0.192928
r37 28 37 0.192928
r38 28 29 2.25625
r39 24 36 0.0172177
r40 21 36 0.192928
r41 16 22 0.215744
r42 15 21 0.130625
r43 15 22 1.805
r44 9 16 0.4465
r45 5 30 0.4655
r46 4 24 0.4655
.ends

.subckt PM_SRAM_BL 1 3
c5 1 0 0.0122329f
r6 1 3 0.184571
.ends

